US09388167B2
5-Fluoro-4-vinylpyrimidine
4-Bromo-5-fluoropyrimidine (5 g) was reacted with potassium vinyltrifluorborate (1.05 equivalents) in the presence of (PPh3)2PdCl2 (0.02 eq), PPh3 (0.02 eq), and Cs2CO3 (3 equivalents) in a mixture of methyl tetrahydrofuran (85 ml) and water (8.5 ml). The reaction was heated at 75° C. for about 5.5 hours. The reaction mixture was then diluted with methyl tert-butyl ether (50 ml), followed by aqueous extraction. The crude product was purified by distillation at 170 mbar (90-110° C.). The product was obtained as a colourless oil (1.44 g, 41% yield).

reactant | 4-Bromo-5-fluoropyrimidine | 5 g | BrC1=NC=NC=C1F | C4H2BrFN2
reactant | potassium vinyltrifluorborate | 1.05 equivalents | C(=C)[B-](F)(F)F.[K+]
reactant | PPh3 | 0.02 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Cs2CO3 | 3 equivalents | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | methyl tetrahydrofuran | 85 ml | CC1OCCC1 | C5H10O
solvent | water | 8.5 ml | O | H2O
solvent | methyl tert-butyl ether | 50 ml | C(C)(C)(C)OC | C5H12O
catalyst | (PPh3)2PdCl2 | 0.02 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Fluoro-4-vinylpyrimidine | 1.44 g, 41% yield | FC=1C(=NC=NC1)C=C | C6H5FN2
